US09284317B2
Preparation of tert-Butyl [5-({3-[4-(cyclopropylcarbamoyl)phenyl]-6-phenylimidazo[1,2-a]pyrazin-8-yl}amino)pent-2-yn-1-yl]carbamate
To a solution of 75 mg (173 μmol) N-cyclopropyl-4-[8-(methylsulfonyl)-6-phenylimidazo[1,2-a]pyrazin-3-yl]benzamide which was prepared according to intermediate example 9-1 in 0.3 mL N,N-dimethylformamide were added 60 μL tert-butyl (5-aminopent-2-yn-1-yl)carbamate and the mixture was stirred at 50° C. overnight. Toluene was added and the mixture was evaporated. The residue was purified by chromatography to give 23.6 mg (25%) of the title compound

reactant | N-cyclopropyl-4-[8-(methylsulfonyl)-6-phenylimidazo[1,2-a]pyrazin-3-yl]benzamide | 173 μmol, 75 mg | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1C=C(N=C2S(=O)(=O)C)C2=CC=CC=C2)=O | C23H20N4O3S
reactant | tert-butyl (5-aminopent-2-yn-1-yl)carbamate | 60 μL | NCCC#CCNC(OC(C)(C)C)=O | C10H18N2O2
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [5-({3-[4-(cyclopropylcarbamoyl)phenyl]-6-phenylimidazo[1,2-a]pyrazin-8-yl}amino)pent-2-yn-1-yl]carbamate | 23.6 mg, 25% | C1(CC1)NC(=O)C1=CC=C(C=C1)C1=CN=C2N1C=C(N=C2NCCC#CCNC(OC(C)(C)C)=O)C2=CC=CC=C2 | C32H34N6O3
